US05223536
A mixture of 1.5 grams (0.007 mole) of 3-cyclopropyl-3-(4-chlorophenyl)propionaldehyde and 1.5 grams (0.007 mole) of 3-phenoxyphenylacetonitrile in 50 ml of methanol was stirred, and 0.7 ml of 25% sodium methoxide in methanol was added quickly. Upon completion of addition, the reaction mixture was stirred at ambient temperature for four hours. The reaction mixture was then concentrated, and the residue was taken up in 100 ml of diethyl ether. The ether solution was washed with two 100 ml portions of water. The ether layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was subjected to centrifugally accelerated, radial thin layer chromatography. Elution was accomplished using 5% diethyl ether in hexane. The appropriate fractions were combined and concentrated under reduced pressure, yielding 1.9 grams of 1-cyclopropyl-1-(4-chlorophenyl)-4-cyano-4-(3-phenoxyphenyl)-3-butene. The nmr spectrum was consistent with the proposed structure.

reactant | 3-cyclopropyl-3-(4-chlorophenyl)propionaldehyde | 0.007 mole, 1.5 grams | C1(CC1)C(CC=O)C1=CC=C(C=C1)Cl | C12H13ClO
reactant | 3-phenoxyphenylacetonitrile | 0.007 mole, 1.5 grams | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC#N | C14H11NO
reactant | sodium methoxide | 0.7 ml | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 1-cyclopropyl-1-(4-chlorophenyl)-4-cyano-4-(3-phenoxyphenyl)-3-butene | 1.9 grams | C1(CC1)C(CC=C(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C1=CC=C(C=C1)Cl | C26H22ClNO
